US04238565
A. Preparation of the labeled conjugate--theophylline-FAD
To a solution of 2.4 μmol flavin N6 -aminohexyl-adenine dinucleotide, prepared as described in part A of Example 1 above, in 200 μl dimethylsulfoxide under argon gas was added 0.9 mg 1,3-dimethyl-1,6,7,8-tetrahydropyrido[1,2-e]purine-2,4,9(3H)-trione (3.62 μmol), prepared according to the method of Cook et al, Res. Comm. in Chem. Pathol. and Pharm. 13:497 (1976), followed after 4 hours by addition of a further 1.8 mg (7.3 μmol) of the same. After stirring overnight, the solvent was evaporated under vacuum (0.1 mm Hg) and the residue chromatographed on a 2.5×90 cm LH-20 Sephadex (Pharmacia Fine Chemicals, Uppsala, Sweden) column and eluted with 0.3 M triethylammonium bicarbonate buffer (pH 7.8). The crude product eluted between 210 and 246 ml of the effluent, was collected, applied to a 20×20 cm×1000μ silica gel plate and eluted with an 8:2 ethanol: 1 M triethylammonium bicarbonate buffer (pH 7.8) mixture. The band containing the desired product (Rf =0.77) was scraped from the plate, extracted with 1 M triethylammonium bicarbonate buffer (pH 7.8), filtered and concentrated. Final purification by rechromatography on LH-20 Sephadex eluted with the buffer at 0.3 M gave 1.26 μmoles of the labeled conjugate, as determined by absorbance measurement at 450 nm, which was a yield of 53%.

reactant | 1,3-dimethyl-1,6,7,8-tetrahydropyrido[1,2-e]purine-2,4,9(3H)-trione | 3.62 μmol, 0.9 mg | CN1C(N(C(C=2N=C3N(C12)C(CCC3)=O)=O)C)=O | C11H12N4O3
solvent | dimethylsulfoxide | 200 μl | CS(=O)C | C2H6OS
product | theophylline | yield of 53% | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
